US04460508
Dichloromethane (42,000 ml) and 5,120 g (50.65 moles) of triethylamine were charged into a 20 gallon flask. The solution was stirred under nitrogen atmosphere and 4,370 g (25.23 moles) of 2-(2-aminobenzyl)imidazole were added. The suspension was cooled to 0°-5° and 3,421 g (29.75 moles) of 85% thiophosgene in carbon tetrachloride were added over 3 hours, during which time the reaction temperature rose slowly to 15°. The suspension was then stirred at 10° for 4 hours and at ambient temperature overnight. The precipitated product was collected, washed with 2×3000 ml of dichloromethane and 5×4000 ml of water, and dried (5 mm Hg/60°) to give 11H-imidazo[1,2-c][1,3]benzodiazepine-5(6H)-thione, m.p. 182°-183°.

reactant | Dichloromethane | 42,000 ml | ClCCl | CH2Cl2
reactant | triethylamine | 50.65 moles, 5,120 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2-aminobenzyl)imidazole | 25.23 moles, 4,370 g | NC1=C(CC=2NC=CN2)C=CC=C1 | C10H11N3
reactant | thiophosgene | 29.75 moles, 3,421 g | C(=S)(Cl)Cl | CCl2S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 11H-imidazo[1,2-c][1,3]benzodiazepine-5(6H)-thione | N=1C=CN2C(NC3=C(CC21)C=CC=C3)=S | C11H9N3S
